US09029366B2
Ethyl 3-(benzyloxy)-1-{3-[(tert-butoxycarbonyl)amino]propyl}-1H-pyrazole-5-carboxylate (7 g, 17.4 mmol) was dissolved in a 4 M solution of HCl in 1,4-dioxane (50 mL). The mixture was stirred at room temperature for 1 hour and then the solvent was evaporated in vacuo to yield ethyl 3-(benzyloxy)-1-[3-amino-propyl]-1H-pyrazole-5-carboxylate (5.5 g, 95% yield) that was used in the next step without further purification.

reactant | Ethyl 3-(benzyloxy)-1-{3-[(tert-butoxycarbonyl)amino]propyl}-1H-pyrazole-5-carboxylate | 17.4 mmol, 7 g | C(C1=CC=CC=C1)OC1=NN(C(=C1)C(=O)OCC)CCCNC(=O)OC(C)(C)C | C21H29N3O5
solvent | HCl | Cl | ClH
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | ethyl 3-(benzyloxy)-1-[3-amino-propyl]-1H-pyrazole-5-carboxylate | 5.5 g, 95% yield | C(C1=CC=CC=C1)OC1=NN(C(=C1)C(=O)OCC)CCCN | C16H21N3O3
